* ==========================================================================
* Global settings and device wrappers - UCI/INRF IGZO TFT (igzo_mmm_lab)
*
* A netlist pulls in this file and one corner section:
*     .include $PDK_ROOT/$PDK/libs.tech/ngspice/design.ngspice
*     .lib     $PDK_ROOT/$PDK/libs.tech/ngspice/igzo_mmm_lab.ngspice tt
* (in xschem, $::IGZO_MODELS expands to that directory - see the testbench in
* libs.tech/xschem/tests/tft_iv.sch)
*
* Same split as gf180mcuD: one file of switches and wrappers, one file of
* models, so a corner run is a one-line change instead of a netlist edit.
* ==========================================================================

*************************************************************************
** Process constants, all measured
*************************************************************************
.param
+  cox_area = 1.564e-3   $ F/m^2   50 nm Al2O3, from the 400x400 um plate
+  rc_w     = 3.3        $ Ohm*m   per contact; 2*Rc*W = 6.6e6 Ohm*um at VGS=6V
+  l_bias   = 3e-6       $ m       drawn-to-printed bias, ONE sample - see below

*************************************************************************
** igzo_tft - the device a schematic instantiates
**
**   XM1 d g s igzo_tft W=100u L=10u ov=5u nf=1 m=1
**
** m is ngspice's own subcircuit multiplier - it is not declared as a
** parameter here, ngspice replicates the whole wrapper (device, contacts and
** overlap caps together), which is what a parallel device really is.
**
** W, L and ov are in metres and are DRAWN dimensions.  Three things are
** wrapped around the intrinsic level-1 model:
**
**   1. Contact resistance.  Rc = 3.3/W per contact, measured from R_on
**      against L.  This is what makes short devices collapse; carrying it
**      explicitly means the tt corner can be used at any L instead of
**      switching to the `short` corner, which hides the same physics inside
**      a smaller Kp.
**   2. Overlap capacitance, Cov = Cox * ov * W per side.  At the drawn 5 um
**      overlap this is 7.82 fF per um of width, and it is the parasitic that
**      decides whether a tuned stage works: it stops scaling with L, so fT
**      flattens out as 1/L instead of 1/L^2.  Sweeping `ov` is the point.
**   3. Three terminals, and only three.  A TFT has no body: it sits on glass.
**      The intrinsic level-1 device still needs a bulk node, so the wrapper
**      ties it to its own source and never exposes it.  Nothing outside the
**      subcircuit can connect to it, which is the point - a bulk pin on a
**      device that has no bulk is an invitation to wire it somewhere.
**
** nf is carried for layout and LVS only.  Fingering does NOT change gm or
** fT - measured, and confirmed in simulation for nf = 1..20 at constant total
** width.  Splitting W leaves gm and Cgs both split, so their ratio is fixed.
**
** L is the DRAWN length.  The process prints it about 3 um wider (l_bias).
** That is one sample of one cell, so it is not applied here; if you want the
** printed device, pass the printed L yourself.
*************************************************************************
.subckt igzo_tft d g s W=100u L=10u ov=5u nf=1
Rd  d  di 'rc_w/W'
Rs  s  si 'rc_w/W'
M1  di g  si si IGZO_TFT W='W' L='L'
Cgd g  di 'cox_area*ov*W'
Cgs g  si 'cox_area*ov*W'
.ends igzo_tft

*************************************************************************
** cap_mim - the S/D-metal / Al2O3 / gate-metal overlap capacitor
**   XC1 p m cap_mim W=400u L=400u
** p is the gate-metal (upper) plate, m the S/D-metal (lower) plate.
*************************************************************************
.subckt cap_mim p m W=400u L=400u
C1 p m 'cox_area*W*L'
.ends cap_mim

*************************************************************************
** ind_igzo - the planar inductor
**   XL1 a b ind_igzo ls=16.38n rs=375.8
**
** Series L and series R, and that is all.  Both values come from the
** ind_igzo PCell, which computes them from the drawn geometry with
** tools/coil_core.py and prints them on the cell; there is nothing to derive
** here, so nothing is derived here.
**
** WHAT THIS MODEL DOES NOT HAVE: capacitance to anything, and therefore no
** self-resonance.  Above the frequency where the coil's own capacitance
** matters this is not a model of an inductor, it is a model of L and R.
**
** WHAT THE NUMBERS SAY: at the 50 nm of gold the process is assumed to have,
** an 8-turn 100 um coil is 16.4 nH with 376 ohms of series resistance -
** Q = 0.03 at 100 MHz.  Thicker metal is the only lever that moves it: the
** same coil in 1 um of gold is 18.8 ohms, Q = 0.55.  Neither is a tank.
*************************************************************************
.subckt ind_igzo a b ls=16.38n rs=375.8
L1 a mid 'ls'
R1 mid b 'rs'
.ends ind_igzo
