* ==========================================================================
* Global settings and device wrappers - UCI/INRF IGZO TFT (igzo_mmm_lab)
*
* A netlist pulls in this file and one corner section:
*     .include $PDK_ROOT/$PDK/libs.tech/ngspice/design.ngspice
*     .lib     $PDK_ROOT/$PDK/libs.tech/ngspice/igzo_mmm_lab.ngspice tt
* (in xschem, $::IGZO_MODELS expands to that directory - see the testbench in
* libs.tech/xschem/tests/tft_iv.sch)
*
* Same split as gf180mcuD: one file of switches and wrappers, one file of
* models, so a corner run is a one-line change instead of a netlist edit.
* ==========================================================================

*************************************************************************
** Process constants, all measured
*************************************************************************
.param
+  cox_area = 1.564e-3   $ F/m^2   50 nm Al2O3, from the 400x400 um plate
+  rc_w     = 3.3        $ Ohm*m   per contact; 2*Rc*W = 6.6e6 Ohm*um at VGS=6V
+  l_bias   = 3e-6       $ m       drawn-to-printed bias, ONE sample - see below
+  mu_corner = 3.593e-4  $ m^2/Vs  overridden by whichever corner is selected

*************************************************************************
** igzo_tft - the device a schematic instantiates
**
**   XM1 d g s igzo_tft W=100u L=10u ov=5u nf=1 m=1 B=0
**
** m is ngspice's own subcircuit multiplier - it is not declared as a
** parameter here, ngspice replicates the whole wrapper (device, contacts and
** overlap caps together), which is what a parallel device really is.
**
** W, L and ov are in metres and are DRAWN dimensions.  Three things are
** wrapped around the intrinsic level-1 model:
**
**   1. Contact resistance.  Rc = 3.3/W per contact, measured from R_on
**      against L.  This is what makes short devices collapse; carrying it
**      explicitly means the tt corner can be used at any L instead of
**      switching to the `short` corner, which hides the same physics inside
**      a smaller Kp.
**   2. Overlap capacitance, Cov = Cox * ov * W per side.  At the drawn 5 um
**      overlap this is 7.82 fF per um of width, and it is the parasitic that
**      decides whether a tuned stage works: it stops scaling with L, so fT
**      flattens out as 1/L instead of 1/L^2.  Sweeping `ov` is the point.
**   3. Three terminals, and only three, and d and s are INTERCHANGEABLE.
**      A TFT has no body: it sits on glass, and its two channel terminals are
**      the same kind of terminal.  The intrinsic level-1 device still carries
**      a substrate node, but every junction on it is dead (Is=0, Cj=0 on all
**      four corner cards), so it has no path to anywhere and the device is
**      symmetric.  Swap d and s in a netlist and nothing changes.
**
**      This was not true before, and it mattered: with the bulk diodes alive,
**      a device wired with its source on the high side forward-biased its
**      bulk-drain junction and passed 1414 uA where the same device the other
**      way round passed 654 uA.  Every device in an amplifier had to be
**      oriented by hand to avoid it.  That rule is now unnecessary.
**
**   4. A magnetic field, B, in tesla, default zero.
**      Classical magnetoresistance: a field across the channel bends the
**      carrier paths and the effective mobility falls as mu/(1+(mu*B)^2).
**      That enters the current as W/(1+(mu*B)^2) - which is the same thing,
**      since level 1 puts mobility and width in the same product - and leaves
**      the threshold, the contact resistance and the overlap capacitances
**      alone, which is where the physics leaves them too.
**
**      READ THIS BEFORE USING IT AS A SENSOR.  At the measured mobility of
**      4.6 cm^2/Vs, mu*B at one tesla is 4.6e-4, so the effect is (mu*B)^2 =
**      2e-7: two parts in ten million.  Classical magnetoresistance in this
**      material is not measurable and cannot be the basis of a sensor.  If
**      the laboratory measures a change in Kp under a field - and it reports
**      that it does - then whatever causes it is NOT this term, and the
**      mechanism is worth finding before it is worth modelling.  b_scale is
**      the hook: set it to the ratio between the measured effect and the
**      classical one and the model will reproduce the measurement, with the
**      number that says how far from classical the result is sitting in
**      plain sight in the netlist.  See docs/bibliography/.
**
** nf is carried for layout and LVS only.  Fingering does NOT change gm or
** fT - measured, and confirmed in simulation for nf = 1..20 at constant total
** width.  Splitting W leaves gm and Cgs both split, so their ratio is fixed.
**
** L is the DRAWN length.  The process prints it about 3 um wider (l_bias).
** That is one sample of one cell, so it is not applied here; if you want the
** printed device, pass the printed L yourself.
*************************************************************************
.subckt igzo_tft d g s W=100u L=10u ov=5u nf=1 B=0 b_scale=1
* Classical magnetoresistance.  mr = 1 at B = 0, so a netlist that says
* nothing about magnetic fields behaves exactly as it did before this existed.
.param mr = '1 + (mu_corner * b_scale * B) * (mu_corner * b_scale * B)'
Rd  d  di 'rc_w/W'
Rs  s  si 'rc_w/W'
M1  di g  si si IGZO_TFT W='W/mr' L='L'
Cgd g  di 'cox_area*ov*W'
Cgs g  si 'cox_area*ov*W'
.ends igzo_tft

*************************************************************************
** cap_mim - the S/D-metal / Al2O3 / gate-metal overlap capacitor
**   XC1 p m cap_mim W=400u L=400u
** p is the gate-metal (upper) plate, m the S/D-metal (lower) plate.
*************************************************************************
.subckt cap_mim p m W=400u L=400u
C1 p m 'cox_area*W*L'
.ends cap_mim

*************************************************************************
** ind_igzo - the planar inductor
**   XL1 a b ind_igzo ls=16.38n rs=375.8
**
** Series L and series R, and that is all.  Both values come from the
** ind_igzo PCell, which computes them from the drawn geometry with
** tools/coil_core.py and prints them on the cell; there is nothing to derive
** here, so nothing is derived here.
**
** WHAT THIS MODEL DOES NOT HAVE: capacitance to anything, and therefore no
** self-resonance.  Above the frequency where the coil's own capacitance
** matters this is not a model of an inductor, it is a model of L and R.
**
** WHAT THE NUMBERS SAY: at the 50 nm of gold the process is assumed to have,
** an 8-turn 100 um coil is 16.4 nH with 376 ohms of series resistance -
** Q = 0.03 at 100 MHz.  Thicker metal is the only lever that moves it: the
** same coil in 1 um of gold is 18.8 ohms, Q = 0.55.  Neither is a tank.
*************************************************************************
.subckt ind_igzo a b ls=16.38n rs=375.8
L1 a mid 'ls'
R1 mid b 'rs'
.ends ind_igzo
